US07314884B2
Step A]: 3-(2-Methyl-1H-imidazol-4-yl)-pyridine
Bromoacetylpyridine hydrobromide (1.0 g) and acetamidine hydrochloride (0.505 g) were suspended in methanol. Potassium tert-butoxide (1.0 g) was added in one portion—the mixture turned slightly yellow. The resulting suspension was heated to reflux for 6 hours and was then cooled and filtered. Solvent was removed in vacuo and the residue was dissolved in CHCl3 and adsorbed onto silica gel that was charged onto a silica gel column. The column was eluted with CH2Cl2/MeOH/NH4OH 90:10:1 and the fractions containing the desired product were combined and evaporated to give an oil (79 mg).

reactant | Bromoacetylpyridine hydrobromide | 1.0 g | Br.BrCC(=O)C1=NC=CC=C1
reactant | acetamidine hydrochloride | 0.505 g | Cl.C(C)(=N)N
reactant | Potassium tert-butoxide | 1.0 g | CC(C)([O-])C.[K+]
solvent | methanol | CO | CH4O
product | 3-(2-Methyl-1H-imidazol-4-yl)-pyridine | 79 mg | CC=1NC=C(N1)C=1C=NC=CC1 | C9H9N3
